US08623889B2
To a stirred solution of (5-bromo-2-iodophenyl)methanamine (40 g, 0.129 mol) in N,N-dimethylformamide (500 mL) was sequentially added N,N-diisopropylethylamine (33.3 g, 0.257 mol), malononitrile (16.9 g, 0.257 mol) and CuBr (36.9 g, 0.257 mol). The mixture was stirred at room temperature overnight. After that, to the reaction mixture was added ether and 10% NH3 (1 L, 1:1) and stirred at room temperature overnight open to the air. The mixture was separated and the residue was extracted with ethyl acetate three times, and the combined organic extracts were washed with brine, filtered, and evaporated to yield 20 g (62%) of 3-amino-7-bromoisoquinoline-4-carbonitrile. LCMS (ESI): M+H=247.7; 1H NMR (400 MHz, DMSO-d6) δ 9.03 (s, 1H), 8.23 (d, J=2.0 Hz, 1H), 7.81 (dd, J=2.0, 9.2 Hz, 1H), 7.56 (d, J=9.2 Hz, 1H), 7.42 (s, 2H).

reactant | (5-bromo-2-iodophenyl)methanamine | 0.129 mol, 40 g | BrC=1C=CC(=C(C1)CN)I | C7H7BrIN
reactant | N,N-diisopropylethylamine | 0.257 mol, 33.3 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | malononitrile | 0.257 mol, 16.9 g | C(CC#N)#N | C3H2N2
reactant | NH3 | 1 L | N | H3N
solvent | N,N-dimethylformamide | 500 mL | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 3-amino-7-bromoisoquinoline-4-carbonitrile | 20 g, 62% | NC=1N=CC2=CC(=CC=C2C1C#N)Br | C10H6BrN3
